2115-03-31 08:22:00 Physician Resident Progress Note
Chief Complaint: 31F pregnant F at 34weeks p/w increased SOB
   24 Hour Events:
   Poor urine output overnight improved with IVF
   Echo done
 nl EF
   [**Doctor Last Name 124**] saw patient, plan to deliver today
 BLOOD CULTURED - At [**2115-3-30**] 04:37 PM
 INVASIVE VENTILATION - START [**2115-3-30**] 08:23 PM
 ARTERIAL LINE - START [**2115-3-30**] 09:43 PM
 NASAL SWAB - At [**2115-3-30**] 10:30 PM
   nasal aspirate also collected
 SPUTUM CULTURE - At [**2115-3-30**] 11:29 PM
 BLOOD CULTURED - At [**2115-3-31**] 04:44 AM
 FEVER - 101.8
F - [**2115-3-31**] 04:00 AM
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone 1g IV daily d5
   Azithromycin 500mg IV daily d5
   Vancomycin 1g IV daily d2
   Infusions:
   Insulin - Regular - 1 units/hour
   Fentanyl - 225 mcg/hour
   Midazolam (Versed) - 18 mg/hour
   Other medications:
   Methylprednisolone 80mg IV daily
   Heparin SQ
   Lansoprazole
   Flowsheet Data as of  [**2115-3-31**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 114 (104 - 136) bpm
   BP: 102/55(70){99/49(64) - 132/72(90)} mmHg
   RR: 30 (23 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                    554 mL
                                                                  3,860 mL
   PO:
             TF:
   IVF:
                                                                    554 mL
                                                                  3,860 mL
   Blood products:
   Total out:
                                                                    155 mL
                                                                     80 mL
   Urine:
                                                                    155 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    399 mL
                                                                  3,780 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CMV
   Vt (Set): 500 (420 - 550) mL
   RR (Set): 30
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: Agitated
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.25/40/85.[**Numeric Identifier 128**]/19/-9
   Ve: 14.7 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes :
   inspiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Labs / Radiology
   292 K/uL
   8.3 g/dL
   91 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.7 mEq/L
   13 mg/dL
   111 mEq/L
   139 mEq/L
   24.4 %
   17.4 K/uL
        [image002.jpg]
   [**3-30**] serum acetone large
   [**3-31**] UA
   1.03, 5.0; urobil 4, bili large, leuk neg, bld large, nitr neg, prot
   300, gluc 100, ket 80, rbc 7, wbc 1, bact few.
   Micro
   2/13,2/16,[**3-31**] blood cx NGTD
   [**3-27**] urine legionella antigen negative
   [**3-30**] sputum <10 polys and <10 epis no organisms cx pending
   [**3-30**] CMV VL pending
   [**3-31**] urine cx pending
   TTE  [**3-30**]
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thicknesses and cavity size are normal. Regional left
   ventricular wall motion is normal. Overall left ventricular systolic
   function is low normal (LVEF 50-55%). Right ventricular chamber size is
   normal. with borderline normal free wall function. The aortic valve
   leaflets (3) appear structurally normal with good leaflet excursion and
   no aortic regurgitation. The mitral valve appears structurally normal
   with trivial mitral regurgitation. The pulmonary artery systolic
   pressure could not be determined. There is an anterior space which most
   likely represents a fat pad.
   IMPRESSION: Normal biventricular cavity sizes with low normal systolic
   function (may be related to tachycardia).
   CXR official read pending my impression worsening bilateral patchy
   opacities
                             [**2115-3-28**]  04:20 AM
                             [**2115-3-30**]  04:44 PM
                             [**2115-3-30**]  10:12 PM
                             [**2115-3-30**]  11:35 PM
                             [**2115-3-30**]  11:47 PM
                             [**2115-3-31**]  01:29 AM
                             [**2115-3-31**]  02:52 AM
                             [**2115-3-31**]  04:21 AM
                             [**2115-3-31**]  04:43 AM
                             [**2115-3-31**]  07:22 AM
   WBC
   11.0
   18.4
   17.4
   Hct
   25.9
   27.5
   24.4
   Plt
   [**Telephone/Fax (3) 948**]
   Cr
   0.7
   0.8
   1.0
   1.3
   TCO2
   19
   22
   22
   20
   18
   18
   Glucose
   70
   166
   109
   91
   Other labs: PT / PTT / INR:12.6/28.7/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.6 %, Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:1.9 %, Eos:0.2 %, Lactic Acid:0.6
   mmol/L, Albumin:2.4 g/dL, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   1. Respiratory failure and pneumonia
   Suspect infectious etiology as patient presented with fevers and
   bandemia. See admit note for ddx of noninfectious causes of SOB and
   bilateral infiltrates in this pregant woman.
   Has bilateral patchy opacities worsening significantly in the last day
   with P/F<200 c/w ARDS. Nl pump function makes cardiogenic pulmonary
   edema less likely. [**Month (only) 60**] have capillary leak secondary to both
   pre-eclampsia and sepsis.
   Suspect sepsis secondary to progressive pneumonia. No pathogen yet
   identified but no respiratory samples had been obtained prior to this
   ICU transfer. History of fevers and myalgias worrisome for influenza,
   could well have a bacterial superinfection.
   --Follow up DFA, no role for tamiflu given duration of sx>72hrs
   --Follow up respiratory cultures, gram stain.
   --Continue ceftriaxone, azithromycin, vancomycin for now. Patient
   formerly relatively healthy community dwelling therefore think she is
   less likely to need expanded gram negative coverage. Added vancomycin
   for double coverage of pneumococcus and empiric coverage of S. aureus
   in setting of ?influenza pna.
   --Check vancomycin trough prior to PM dose of vancomycin per renal, in
   light of changing renal function and uncertain GFR. Would aim to keep
   vancomycin trough between 15-20.
   --Plan for BAL today when patient returns from OR
   --Ventilation per ARDSnet, goal of 6cc/kg.
   2. Sepsis, suspected
   Ventilation as above. Place central line, expect patient will require
   significant additional volume resuscitation but CVP will be helpful in
   this regard. Check SvO2. Goal MAP>65. Follow urine output as below.
   3. Acute renal failure
   Poor urine output, some response to fluid boluses overnight. Suspect
   further fluid resuscitation required. Renal following due to likely
   pre-eclampsia, their review of sediment shows many granular casts c/w
   ATN. Renal recommendations appreciated. Urine electrolytes, eosinophils
   pending. Think obstruction is less likely in her, but if above workup
   unrevealing could pursue renal U/S. Proteinuria likely due to
   pre-eclampsia but given DM may also have had pre-existing renal
   disease.
   4. Asthma
   Continue standing albuterol, IV steroids.
   5. Pregnancy and pre-eclampsia, suspected
   OB following, C/S today. s-Flt to be sent.
   6. Gap acidosis
   Gap closed today, but patient with ketones in blood and urine
 suspect
   DKA. Lactate normal. No osmolar gap. Continue IVF resuscitation as
   above, follow electrolytes at least q6.
   7. Diabetes mellitius
   Patient with h/o type 1 DM, continue insulin drip. Keep glucose<150.
   8. Anemia
   Hct stable, monitor hemolysis labs and follow Hct. Transfuse Hb>7.
   9. Lower extremity swelling
   Stable, probably due to proteinuria. No evidence of severely impaired
   pump function. Has had negative LENIS recently.
   ICU Care
   Nutrition: NPO for OR
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2115-3-30**] 04:50 PM
   20 Gauge - [**2115-3-30**] 08:00 PM
   Arterial Line - [**2115-3-30**] 09:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  with husband
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2115-03-31 08:54:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
     Ketoacidosis brought under control. Patient volume resuscitated
   overnight with significant positive fluid balance. Remains on
   ventilator with FIO 0.6.
   24 Hour Events:
 BLOOD CULTURED - At [**2115-3-30**] 04:37 PM
 INVASIVE VENTILATION - START [**2115-3-30**] 08:23 PM
 ARTERIAL LINE - START [**2115-3-30**] 09:43 PM
 NASAL SWAB - At [**2115-3-30**] 10:30 PM
   nasal aspirate also collected
 SPUTUM CULTURE - At [**2115-3-30**] 11:29 PM
 BLOOD CULTURED - At [**2115-3-31**] 04:44 AM
 FEVER - 101.8
F - [**2115-3-31**] 04:00 AM
   [**Year (4 digits) 949**] low overnight, received boluses with minimal improvement.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-3-30**] 11:23 PM
   Azithromycin - [**2115-3-31**] 05:50 AM
   Vancomycin - [**2115-3-31**] 07:34 AM
   Infusions:
   Insulin - Regular - 1 units/hour
   Fentanyl - 225 mcg/hour
   Midazolam (Versed) - 18 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-31**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 114 (104 - 136) bpm
   BP: 102/55(70){99/49(64) - 132/72(90)} mmHg
   RR: 30 (23 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                    554 mL
                                                                  3,874 mL
   PO:
             TF:
   IVF:
                                                                    554 mL
                                                                  3,874 mL
   Blood products:
   Total out:
                                                                    155 mL
                                                                     80 mL
   Urine:
                                                                    155 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    399 mL
                                                                  3,794 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CMV
   Vt (Set): 500 (420 - 550) mL
   RR (Set): 30
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: Agitated
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.25/40/85.[**Numeric Identifier 128**]/19/-9
   Ve: 14.7 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , coarse crackles throughout, No(t) Wheezes : )
   Abdominal: Soft, gravid
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, well perfused
   Neurologic: Sedated,
   Labs / Radiology
   8.3 g/dL
   292 K/uL
   91 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.7 mEq/L
   13 mg/dL
   111 mEq/L
   139 mEq/L
   24.4 %
   17.4 K/uL
        [image002.jpg]
                             [**2115-3-28**]  04:20 AM
                             [**2115-3-30**]  04:44 PM
                             [**2115-3-30**]  10:12 PM
                             [**2115-3-30**]  11:35 PM
                             [**2115-3-30**]  11:47 PM
                             [**2115-3-31**]  01:29 AM
                             [**2115-3-31**]  02:52 AM
                             [**2115-3-31**]  04:21 AM
                             [**2115-3-31**]  04:43 AM
                             [**2115-3-31**]  07:22 AM
   WBC
   11.0
   18.4
   17.4
   Hct
   25.9
   27.5
   24.4
   Plt
   [**Telephone/Fax (3) 948**]
   Cr
   0.7
   0.8
   1.0
   1.3
   TCO2
   19
   22
   22
   20
   18
   18
   Glucose
   70
   166
   109
   91
   Other labs: PT / PTT / INR:12.6/28.7/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.6 %, Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:1.9 %, Eos:0.2 %, Lactic Acid:0.6
   mmol/L, Albumin:2.4 g/dL, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR today: diffuse bilateral alveolar opacities, worse than
   yesterday (upper lobes particularly worse)
   TTE last night: hyperdynamic EF
   Microbiology: Sputum cx pending
   DFA for influenza pending
   Blood cx pending
   Urine cx pending
   Assessment and Plan
   31 y/o F 34 weeks pregnant who was admitted with fever and cough, now
   with worsening hypoxemic respiratory failure and ARDS.
 RESPIRATORY FAILURE, ACUTE (ARDS):  Differential broad as per
   admission note, but likely viral pneumonia with bacterial
   superinfection.  Peripartum cardiomyopathy less likely given
   hyperdynamic EF seen on TTE.  Also could have AIP, HP, DAH, pulmonary
   hemosiderosis.
   - Continue antibiotics: ceftriaxone, azithro, vancomycin; f/u sputum
   cultures
   - On bronchodilators and steroids for asthma
   - Currently going to OR for C-section, in case preeclampsia causing
   vascular leak is contributing to her respiratory failure.  When back
   from OR, will adjust ventilator for ideal Vt 6 cc/kg.
   - When back from OR, would consider bronch for BAL/cell count/diff
   - Will get central line in OR, which will be helpful for CVP (as voume
   status is somewhat unclear - [**Name (NI) 950**] is elevated, but [**Name (NI) 949**] low)
   -Intrinsic PEEP at 11
 will increase machine PEEP to 12. With ongoing
   metabolic acidosis, will give bicarbonate to improve serum bicarb and
   allow for lower minute ventilation. This will allow us to reduce tidal
   volume to 8 ml/kg (450 ml) to try to keep with ARDSnet protocol. FIO2
   reduced to 0.4. Plateau pressures now 29.
 ACUTE RENAL FAILURE: Likely due to preeclampsia.  ATN less likely as
   has not been hypotensive.  Also could be volume depleted as her [**Name (NI) 949**]
   tended to respond to boluses overnight.
   - CrCl extremely low and will dose meds appropriately
   - Renal following
   - Send urine lytes, sediment, urine eos
 ASTHMA: As above, on bronchodilators and steroids.
 DIABETES MELLITUS (DM), TYPE I:  On insulin gtt.
 ACIDOSIS, METABOLIC: likely due to DKA given ketones in urine and
   serum acetone.  On insulin gtt. Now has non-gap acidosis probably
   related to volume resuscitation with normal saline. Will give bicarb as
   noted above.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2115-3-30**] 04:50 PM
   20 Gauge - [**2115-3-30**] 08:00 PM
   Arterial Line - [**2115-3-30**] 09:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2115-04-01 09:49:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2115-3-31**] 10:36 AM
   to labor and delivery OR
 OR RECEIVED - At [**2115-3-31**] 11:42 AM
 MULTI LUMEN - START [**2115-3-31**] 04:44 PM
   UOP poor overnight.
   Pt s/p delivery via C-section
   Some improvement in oxygenation
   Pt with PRBC this am and IVF bolus O/N
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2115-3-31**] 10:00 PM
   Azithromycin - [**2115-4-1**] 07:45 AM
   Vancomycin - [**2115-4-1**] 08:58 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 15 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2115-3-31**] 12:38 PM
   Lorazepam (Ativan) - [**2115-3-31**] 04:37 PM
   Other medications:
   solumedrol 80 mg IV daily, SQ heparin, nephrocaps, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-1**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 80 (71 - 107) bpm
   BP: 121/64(83){113/62(79) - 140/80(98)} mmHg
   RR: 26 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 86 kg
   Height: 63 Inch
   CVP: 5 (4 - 15)mmHg
   Total In:
                                                                  9,366 mL
                                                                  3,396 mL
   PO:
   TF:
   IVF:
                                                                  8,616 mL
                                                                  3,396 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,131 mL
                                                                    246 mL
   Urine:
                                                                    381 mL
                                                                    246 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,235 mL
                                                                  3,150 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/28/143/18/-3
   Ve: 13.6 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, facial edema
   Lymphatic: line site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   blowing murmur at LLSB
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), mid inspiratory squeaks
   anteriorly
patient with diffuse expiratory wheezes and continued
   inspiratory squeaks with substantial improvement with PEEP increase to
   10
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+, anasarca
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   294 K/uL
   86 mg/dL
   2.6 mg/dL
   18 mEq/L
   4.6 mEq/L
   22 mg/dL
   112 mEq/L
   138 mEq/L
   21.4 %
   18.4 K/uL
        [image002.jpg]
                             [**2115-3-31**]  02:52 AM
                             [**2115-3-31**]  04:21 AM
                             [**2115-3-31**]  04:43 AM
                             [**2115-3-31**]  07:22 AM
                             [**2115-3-31**]  08:48 AM
                             [**2115-3-31**]  01:16 PM
                             [**2115-3-31**]  06:00 PM
                             [**2115-3-31**]  06:10 PM
                             [**2115-4-1**]  05:00 AM
                             [**2115-4-1**]  05:04 AM
   WBC
   17.4
   16.6
   18.4
   Hct
   24.4
   23.6
   21.4
   Plt
   292
   283
   294
   Cr
   1.3
   2.4
   2.6
   TCO2
   20
   18
   18
   18
   18
   20
   20
   Glucose
   91
   87
   86
   Other labs: PT / PTT / INR:12.9/29.0/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.6 %, Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:1.9 %, Eos:0.2 %, D-dimer:2488 ng/mL,
   Fibrinogen:620 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.7 g/dL,
   Ca++:6.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: Urine lytes: FeNa 10%, repeat 0.9%
   UA granular casts, trace leuks, 30 protein, 35 WBC, 7 epis
   Imaging: CXR: L IJ in good position.  Multifocal alveolar opacities
   improved, esp in LUL.  Bilateral hemidiaphragms much sharper than
   yesterday.
   Microbiology: Urine cx negative
   Blood cx pending
   Rapid resp panel negative
   Sputum pending (gram stain >25 PMNs, no organisms)
   Assessment and Plan
   31 y/o F POD#1 from c-section, with respiratory failure of unclear
   etiology, now improving.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  The underlying etiology
   remains unclear, but the fact that her oxygenation has significantly
   improved s/p delivery suggests that pre-eclampsia with capillary leak
   was the primary cause of her ARDS.  Respiratory viral panel negative
   for influenza, so is off precautions.  Gram stain of sputum also
   negative (but has been on antibiotics for several days) so bacterial
   infection still possible.
   - continue broad spectrum antibiotics
   - wean sedation and try pressure support
   Will likely need higher PEEP until volume status stabilized given PEEP
   responsive chagnes in regards to resp distress seen this am.
   PSV Reasonable mode for now
 ACUTE RENAL FAILURE:  Likely ATN from relative hypotension given
   casts seen on urine sediment (also urine lytes are suggestive of
   this).  However, her UOP increases when her CVP is increased,
   suggesting a component of volume depletion.  Also, preeclampsia likely
   played a role.
   - check pm lytes
   - goal CVP 12 (although recognizing this may worsen respiratory status
   if her UOP remains poor)
   -Follow 24 hour urine output for evidence of improved
 SEPSIS:  Improved.  BP stable.  Source is likely pneumonia although
   pathogen not clear.
 ASTHMA:  Cont bronchodilators and steroids. Change to po steroids.
 DIABETES MELLITUS (DM), TYPE I:  Cont insulin gtt.
 ACIDOSIS, METABOLIC:  Resolved.  Likely gap from DKA and non-gap from
   normal saline.
 ANEMIA:  Transfuse today given Hct 21.4 and attempting to keep CVP
   up.  Likely dilutional as well as blood loss from c-section.
   .
   ICU Care
   Nutrition:
   Comments: start tube feeds
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   18 Gauge - [**2115-3-30**] 04:50 PM
   20 Gauge - [**2115-3-30**] 08:00 PM
   Arterial Line - [**2115-3-30**] 09:43 PM
   Multi Lumen - [**2115-3-31**] 04:44 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2115-04-02 07:21:00 Physician Resident Progress Note
Chief Complaint: 31F with DM and asthma presented at 34 weeks pregnant
   with SOB, cough
   24 Hour Events:
   Was changed from insulin infusion to sliding scale insulin
   Seen by Renal--most likely preeclampsia or ATN
   Seen by Endocrine--recommend contacting them at [**Numeric Identifier 997**] when patient off
   of insulin gtt or leaving ICU for advice about starting insulin pump
   Transfused 1 unit pRBCs with appropriate response
   Gave lasix 10 at 2am with good urine response
   Patient unable to provide history: Sedated
   Allergies:
   Erythromycin Base Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone 1g IV daily d7
   Azithromycin 500mg IV daily d7
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 150 mcg/hour
   Other medications:
   Albuterol prn
   Prednisone 60 daily
   Heparin SQ
   Lansoprazole
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2115-4-2**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 79 (71 - 84) bpm
   BP: 120/66(85){108/59(75) - 131/76(96)} mmHg
   RR: 9 (9 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 86 kg
   Height: 63 Inch
    CVP: 14 (5 - 19)mmHg
   Total In:
                                                                  4,641 mL
                                                                    196 mL
   PO:
   TF:
                                                                    194 mL
   IVF:
                                                                  4,100 mL
                                                                    196 mL
   Blood products:
                                                                    347 mL
   Total out:
                                                                    761 mL
                                                                    385 mL
   Urine:
                                                                    761 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,880 mL
                                                                   -189 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 819 (520 - 819) mL
   PS : 10 cmH2O
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 34
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.31/42/136/18/-4
   Ve: 6.8 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic), II/VI systolic murmur at base
   Respiratory / Chest: (Breath Sounds: Bronchial: ) few wheezes
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, C section scar
   staples intact clean
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Labs / Radiology
   403 K/uL
   8.2 g/dL
   226 mg/dL
   3.5 mg/dL
   18 mEq/L
   5.5 mEq/L
   38 mg/dL
   111 mEq/L
   137 mEq/L
   24.2 %
   21.0 K/uL
        [image002.jpg]
   Micro
   [**3-31**] sputum >25polys, no organisms cx pending; fungal and afb cx
   pending
   [**3-31**] sputum viral ag negative, cx pending
   2/13,2/16,[**3-31**] blood cx NGTD
   [**3-30**] CMV VL pending
   [**3-30**] sputum no polys or organisms
   2/13,[**3-31**] urine cx negative
   [**3-27**] urine legionella ag negative
   CXR official read pending decreased R infiltrate but increased L sided
   infiltrate
   Fingersticks
   [image004.jpg]
                             [**2115-3-31**]  08:48 AM
                             [**2115-3-31**]  01:16 PM
                             [**2115-3-31**]  06:00 PM
                             [**2115-3-31**]  06:10 PM
                             [**2115-4-1**]  05:00 AM
                             [**2115-4-1**]  05:04 AM
                             [**2115-4-1**]  11:41 AM
                             [**2115-4-1**]  02:38 PM
                             [**2115-4-1**]  05:09 PM
                             [**2115-4-2**]  04:25 AM
   WBC
   16.6
   18.4
   19.8
   21.0
   Hct
   23.6
   21.4
   24.0
   24.2
   Plt
   [**Telephone/Fax (3) 998**]03
   Cr
   2.4
   2.6
   3.1
   3.5
   TCO2
   18
   18
   20
   20
   22
   22
   Glucose
   87
   86
   124
   226
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.6 %, Band:Units: %
   Range: 0-5 %, Lymph:6.2 %, Mono:1.9 %, Eos:0.2 %, D-dimer:2488 ng/mL,
   Fibrinogen:620 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.7 g/dL,
   Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   1. Respiratory failure
   Suspect infectious etiology as patient presented with fevers and
   bandemia. Has bilateral patchy opacities. NL pump function makes
   cardiogenic pulmonary edema unlikely. [**Month (only) 60**] have capillary leak secondary
   to both pre-eclampsia and sepsis. Oxygenation improved, good RSBI this
   morning. However still on PEEP of 10, which patient required yesterday
   [**3-16**] wheezing (likely related to fluid, in addn to asthma).
   -- Continue diuresis with lasix goal 1-2 L negative today
   -- Decrease PEEP as tolerated today, ?extubation tomorrow
   -- Follow up respiratory cultures, gram stain negative
   -- Continue ceftriaxone, azithromycin for CAP complete 14d course
   2. Sepsis, suspected
   Hemodyanamically stable off pressors. Keep CVP>12, MAP>65.
   3. Acute renal failure
   Renal following suspect [**3-16**] ATN vs pre-eclampsia. Cr continues to
   climb, though urine output improved yesterday with lasix.
   --Given crystals on renal review of urinalysis will check uric acid
   today
 consider allopurinol if uric acid elevated.
   --Follow urine output, Cr. Renal dose meds. Renal recommendations
   appreciated.
   4. Asthma
   --Continue nebs, change back to IV steroids ?decreased absorption in
   setting of fluid overload
   5. Pregnancy and pre-eclampsia, suspected
   OB following, recommendations appreciated. s/p C section [**3-31**]
   6. Hyperkalemia
   K slightly up this AM in setting of decreased insulin, worsening Cr.
   F/u EKG, kayexalate, repeat PM electrolytes
   7. Diabetes mellitius
   Sugars more poorly controlled on sliding scale. As she is type 1 needs
   basal insulin coverage.  Had some lower sugars yesterday on low level
   insulin drip (60
s per report, not on Metavision). Will be starting
   tube feeds today, will add back insulin drip today. Keep glucose<150.
   8. Anemia
   Transfused 1unit PRBCs yesterday with appropriate Hct bump. No evidence
   of active bleeding. Transfuse Hb>7
   Given concern for pre-eclampsia, check hemolysis labs and smear if
   further decrease in Hct.
   9. Lower extremity swelling
   Probably [**3-16**] proteinuria. Unlikely DVT, has had negative LENIS
   recently.
   ICU Care
   Nutrition: restart tube feeds today
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-3-30**] 04:50 PM
   20 Gauge - [**2115-3-30**] 08:00 PM
   Arterial Line - [**2115-3-30**] 09:43 PM
   Multi Lumen - [**2115-3-31**] 04:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  with family
   Code status: Full code
   Disposition:ICU

2115-04-02 11:01:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Creatinine continues to rise, although UOP improving on Lasix.  Given
   lasix last night as concern for volume overload.
   Patient unable to provide history: Sedated
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2115-4-1**] 08:58 AM
   Ceftriaxone - [**2115-4-1**] 10:35 PM
   Azithromycin - [**2115-4-2**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Fentanyl - [**2115-4-1**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-4-2**] 04:44 AM
   Insulin - Regular - [**2115-4-2**] 06:23 AM
   Lansoprazole (Prevacid) - [**2115-4-2**] 08:00 AM
   Other medications:
   nephrocaps, prednisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-2**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 86 (73 - 104) bpm
   BP: 101/76(89){101/62(79) - 140/82(103)} mmHg
   RR: 10 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 86 kg
   Height: 63 Inch
   CVP: 15 (8 - 19)mmHg
   Total In:
                                                                  4,641 mL
                                                                    563 mL
   PO:
   TF:
                                                                    194 mL
   IVF:
                                                                  4,100 mL
                                                                    563 mL
   Blood products:
                                                                    347 mL
   Total out:
                                                                    761 mL
                                                                    585 mL
   Urine:
                                                                    761 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,880 mL
                                                                    -22 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 819 (520 - 819) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 34
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.31/42/136/18/-4
   Ve: 7.8 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: L IJ c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R base), inspiratory squeaks anteriorly (improved from
   yest)
   Abdominal: Soft, Non-tender, Bowel sounds present. Incision looks fine.
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   403 K/uL
   226 mg/dL
   3.5 mg/dL
   18 mEq/L
   5.5 mEq/L
   38 mg/dL
   111 mEq/L
   137 mEq/L
   24.2 %
   21.0 K/uL
        [image002.jpg]
                             [**2115-3-31**]  08:48 AM
                             [**2115-3-31**]  01:16 PM
                             [**2115-3-31**]  06:00 PM
                             [**2115-3-31**]  06:10 PM
                             [**2115-4-1**]  05:00 AM
                             [**2115-4-1**]  05:04 AM
                             [**2115-4-1**]  11:41 AM
                             [**2115-4-1**]  02:38 PM
                             [**2115-4-1**]  05:09 PM
                             [**2115-4-2**]  04:25 AM
   WBC
   16.6
   18.4
   19.8
   21.0
   Hct
   23.6
   21.4
   24.0
   24.2
   Plt
   [**Telephone/Fax (3) 998**]03
   Cr
   2.4
   2.6
   3.1
   3.5
   TCO2
   18
   18
   20
   20
   22
   22
   Glucose
   87
   86
   124
   226
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.4 %, Band:Units: %
   Range: 0-5 %, Lymph:5.5 %, Mono:2.7 %, Eos:0.2 %, D-dimer:2488 ng/mL,
   Fibrinogen:620 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:1.7 g/dL,
   Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.9 mg/dL
   Imaging: CXR: R base improved, worsened infiltrate at Left base
   Microbiology: Sputum cx pending
   DFA for influenza negative
   Assessment and Plan
   31 y/o F admitted at 34 weeks pregnant, with fever and hypoxemia,
   developed to ARDS requiring intubation.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Likely due to infection
   initially, with superimposed capillary leak from preeclampsia leading
   to ARDS.  Her oxygenation has improved since she underwent c-section on
   Sunday morning, although because of her renal failure she is still not
   ready for extubation.  She was switched to PSV 10/10 yesterday and has
   tolerated this well.
   - continue to treat pna with abx (ceftriaxone and azithro)
   - continue current ventilator settings - can attempt to decrease PEEP
   - diurese as tolerated today as some component of this is likely now
   volume overload
 ACUTE RENAL FAILURE:  Differential includes ATN, preeclampsia, and
   mix of the two.  I doubt  urate nephropathy (although had urate
   crystals on UA). Her creatinine continues to rise but her UOP is
   improving with diuresis.  Her CVP is high, again c/w volume overload.
   - diurese today with goal negative 1-2 L if possible
 SEPSIS:  Resolved.  Has been hemodynamically stable throughout
   current ICU course.  Likely source pna.
 ASTHMA:  Cont prednisone, bronchodilators.
 DIABETES MELLITUS (DM), TYPE I:  Insulin gtt. Needs basal SQ insulin
   and sliding scale.
 ACIDOSIS, METABOLIC: Anion gap only 8.  Likely has a non-gap acidosis
   from renal failure.  Recheck lytes later today.
 SEDATION:  Have had some difficulty with sedation.  Will titrate up
   her fentanyl/versed for comfort.
 ANEMIA:  Hct stable post-transfusion.  Likely dilutional.  Will
   trend.
   .
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Insulin infusion, Comments: switch to SQ insulin
   Lines:
   18 Gauge - [**2115-3-30**] 04:50 PM
   20 Gauge - [**2115-3-30**] 08:00 PM
   Arterial Line - [**2115-3-30**] 09:43 PM
   Multi Lumen - [**2115-3-31**] 04:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:  Discussed with patient
   husband in detail, as well as renal team and obstetrical team (x3).
   Code status: Full code
   Disposition :ICU
   Total time spent:  75
   Patient is critically ill

2115-04-03 08:07:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2115-4-2**] 08:14 PM
 ARTERIAL LINE - START [**2115-4-2**] 09:36 PM
   New A line placed as RN having difficulty drawing from old line
   Creatinine continued to increase but urine output good with lasix
   Weaned down on PEEP
   Cultured for temp to 100.7
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2115-4-1**] 08:58 AM
   Ceftriaxone - [**2115-4-2**] 11:09 PM
   Azithromycin - [**2115-4-3**] 07:54 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2115-4-2**] 08:00 AM
   Insulin - Regular - [**2115-4-2**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-4-3**] 04:20 AM
   Furosemide (Lasix) - [**2115-4-3**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-3**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 79 (71 - 104) bpm
   BP: 116/78(95) {101/61(80) - 150/104(118)} mmHg
   RR: 28 (7 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 86 kg
   Height: 63 Inch
    CVP: 9 (7 - 58)mmHg
   Total In:
                                                                  1,255 mL
                                                                    724 mL
   PO:
   TF:
                                                                    100 mL
                                                                     40 mL
   IVF:
                                                                  1,155 mL
                                                                    684 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                  1,480 mL
   Urine:
                                                                  1,885 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -630 mL
                                                                   -756 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 710 (710 - 777) mL
   PS : 0 cmH2O
   RR (Set): 28
   RR (Spontaneous): 400
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.36/36/146/18/-4
   Ve: 10.8 L/min
   PaO2 / FiO2: 365
   Physical Examination
   Intubated, sedated, not responding to verbal stimuli.  Grossly fluid
   overloaded.
   S1, S2, RRR, no murmur
   Lungs with good air entry, not wheezy, coarse BS b/l
   Abd incision clean with clear, weepy drainage
   Pneumoboots.  Ext warm.
   Labs / Radiology
   437 K/uL
   8.1 g/dL
   248 mg/dL
   3.8 mg/dL
   18 mEq/L
   4.9 mEq/L
   56 mg/dL
   114 mEq/L
   142 mEq/L
   23.2 %
   14.3 K/uL
        [image002.jpg] Uric acid 8.4
                             [**2115-4-1**]  05:04 AM
                             [**2115-4-1**]  11:41 AM
                             [**2115-4-1**]  02:38 PM
                             [**2115-4-1**]  05:09 PM
                             [**2115-4-2**]  04:25 AM
                             [**2115-4-2**]  04:51 PM
                             [**2115-4-2**]  05:07 PM
                             [**2115-4-2**]  08:14 PM
                             [**2115-4-2**]  10:22 PM
                             [**2115-4-3**]  04:07 AM
   WBC
   19.8
   21.0
   14.3
   Hct
   24.0
   24.2
   24.0
   23.2
   Plt
   [**Telephone/Fax (3) 1039**]
   Cr
   3.1
   3.5
   3.7
   3.8
   TCO2
   20
   22
   22
   23
   23
   21
   Glucose
   124
   226
   203
   248
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.5 %,
   Mono:2.7 %, Eos:0.2 %, D-dimer:2488 ng/mL, Fibrinogen:620 mg/dL, Lactic
   Acid:0.5 mmol/L, Albumin:1.7 g/dL, Ca++:6.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:7.7 mg/dL
   BCx NGTD
   Sputum Cx NGTD.  Gram stain with polys, no organisms, no legionella,
   AFB negative
   UA negative
   CXR [**4-2**]:
   1)  High position of the endotracheal tube which should be advanced 2 c
   m for
   optimal placement.
   2)  Unchanged mild to moderate edema.  Improving right atelectasis.
   Assessment and Plan
   31yo woman admitted at 34 weeks pregnant with preeclampsia and
   respiratory failure, now s/p C section.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Most likely due to pneumonia in addition to capillary leak from
   preeclampsia and aggressive fluids.
   -          plan to wean sedation and extubate today
   -          continue to treat for possible CAP with ceftriaxone and
   azithromycin for total 14 day course (day 1 = [**3-27**])
   -          f/u sputum cultures
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Most likely from preeclampsia with component of ATN.  Appears to be in
   diuretic phase of ATN.  Cr starting to plateau.
   - follow urine output and [**Hospital1 **] lytes
   - lasix if needed for goal of -1500 to -2000ml today
   - uric acid elevated, but feel that urate nephropathy less likely in
   this patient with other good explanations for renal failure; would hold
   on allopurinol
   - appreciate renal input
   # Pregnancy c/b preeclampsia:
   -          s/p C section
   -          appreciate OB input
 ASTHMA
   -          continue IV steroids at present given plan to extubate and
   improvement on exam when switched back to IV
   -          inhalers PRN
 DIABETES MELLITUS (DM), TYPE I
   -          became hypoglycemic overnight in setting of holding tube
   feeds, now hyperglycemic
   -          will give D10 to prevent hypoglycemia while continuing
   insulin gtt
   -          will contact endocrine once patient off gtt for help with
   insulin pump
 Anemia:
   -          s/p RBC transfusion [**4-2**]
   -          will continue to follow Hct; transfuse if < 21, though no
   evidence of active bleeding
   # Edema:
   -          in setting of volume overload and hypoproteinemia from
   preeclampsia
   -          diuresis with goal of -1500 to -2000ml today
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  insulin gtt
   Lines:
   Multi Lumen - [**2115-3-31**] 04:44 PM
   Arterial Line - [**2115-4-2**] 09:36 PM
   Prophylaxis:
   DVT: heparin subQ
   Stress ulcer: PPI
   VAP:  mouth care
   Comments:
   Communication:  Comments: with family; social work consult to help with
   husband
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2115-04-03 11:25:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2115-4-2**] 08:14 PM
 ARTERIAL LINE - START [**2115-4-2**] 09:36 PM
   Arterial line replaced
   Urine output has stayed OK.
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2115-4-1**] 08:58 AM
   Ceftriaxone - [**2115-4-2**] 11:09 PM
   Azithromycin - [**2115-4-3**] 07:54 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Insulin - Regular - [**2115-4-2**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2115-4-3**] 04:20 AM
   Furosemide (Lasix) - [**2115-4-3**] 04:20 AM
   Other medications:
   SQH, nephrocaps, PPI, CHG,  methyprednisolone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-3**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 76 (71 - 97) bpm
   BP: 118/64(84) {105/61(80) - 150/104(118)} mmHg
   RR: 27 (7 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 86 kg
   Height: 63 Inch
   CVP: 9 (7 - 58)mmHg
   Total In:
                                                                  1,255 mL
                                                                    981 mL
   PO:
   TF:
                                                                    100 mL
                                                                     40 mL
   IVF:
                                                                  1,155 mL
                                                                    851 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                  2,220 mL
   Urine:
                                                                  1,885 mL
                                                                  2,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -630 mL
                                                                 -1,239 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 710 (710 - 777) mL
   PS : 0 cmH2O
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.36/36/146/18/-4
   Ve: 10.9 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : scant), lateral
   Abdominal: Soft, Non-tender, healing surgical incision
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   8.1 g/dL
   437 K/uL
   248 mg/dL
   3.8 mg/dL
   18 mEq/L
   4.9 mEq/L
   56 mg/dL
   114 mEq/L
   142 mEq/L
   23.2 %
   14.3 K/uL
        [image002.jpg]
                             [**2115-4-1**]  05:04 AM
                             [**2115-4-1**]  11:41 AM
                             [**2115-4-1**]  02:38 PM
                             [**2115-4-1**]  05:09 PM
                             [**2115-4-2**]  04:25 AM
                             [**2115-4-2**]  04:51 PM
                             [**2115-4-2**]  05:07 PM
                             [**2115-4-2**]  08:14 PM
                             [**2115-4-2**]  10:22 PM
                             [**2115-4-3**]  04:07 AM
   WBC
   19.8
   21.0
   14.3
   Hct
   24.0
   24.2
   24.0
   23.2
   Plt
   [**Telephone/Fax (3) 1039**]
   Cr
   3.1
   3.5
   3.7
   3.8
   TCO2
   20
   22
   22
   23
   23
   21
   Glucose
   124
   226
   203
   248
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.5 %,
   Mono:2.7 %, Eos:0.2 %, D-dimer:2488 ng/mL, Fibrinogen:620 mg/dL, Lactic
   Acid:0.5 mmol/L, Albumin:1.7 g/dL, Ca++:6.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:7.7 mg/dL
   Imaging: CXR: bibasilar opacities, ETT, IJ
   Assessment and Plan
   31-year-old woman with respiratory and renal failure now post-partum
   after c-section for possible pre-eclampsia.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -- treat for CAP
   -- diuresis as tolerated today
   -- looks comfortable on PSV 5/0 now --> SBT and hold sedation.  [**Month (only) 60**]
   warrant extubation trial.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -- creatinine has stabilized
   -- urine output looks good today
 ASTHMA
   -- on steroids
   -- begin to taper once extubated
 DIABETES MELLITUS (DM), TYPE I
   -- insulin gtt
   -- add dextrose in IV fluids whenever TF are stopped
   ICU Care
   Nutrition: hold TF for now
   Glycemic Control:  IV insulin gtt.  Keep caloric source going (add D10
   when TF held).  Needs basal insulin rate.  Consult [**Last Name (un) 276**] regarding
   pump once extubated.
   Lines:
   Multi Lumen - [**2115-3-31**] 04:44 PM
   Arterial Line - [**2115-4-2**] 09:36 PM
   Both lines required for now.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: Discussed with husband
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 50 min
   Patient is critically ill
   6p addendum
   Did well with SBT today, so we proceeded with extubation.
   Appears to be tolerate well so far.  Urine output remains brisk, and
   creatinine appears to have plateaued.
   Discussed with family at bedside.
   30 min

2115-04-04 06:57:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-4-3**] 12:35 PM
   Extubated and did well
   Endocrine c/s: keep insulin gtt until taking po, then switch to sQ
   OB: nothing new
   renal: no need for Hd, allow to diurese (can help her if needed)
   SUBJECTIVE:
   Feels thirsty
   Still drowsy
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2115-4-1**] 08:58 AM
   Azithromycin - [**2115-4-3**] 07:54 AM
   Ceftriaxone - [**2115-4-3**] 10:06 PM
   Infusions:
   Insulin - Regular - 5.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-4**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.1
C (97
   HR: 60 (53 - 104) bpm
   BP: 147/83(110) {116/64(84) - 161/146(170)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 86 kg
   Height: 63 Inch
    CVP: 326 (326 - 337)mmHg
   Total In:
                                                                  1,578 mL
                                                                    323 mL
   PO:
   TF:
                                                                     40 mL
   IVF:
                                                                  1,448 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                    935 mL
   Urine:
                                                                  3,290 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,712 mL
                                                                   -612 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 621 (621 - 621) mL
   RR (Set): 28
   RR (Spontaneous): 13
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.36/38/134/19/-3
   Ve: 7.9 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Sleeping, wakes easily.  Oriented, following commands.
   S1, S2, bradycardic, regular, no murmur
   Lungs with diffuse expiratory wheezes but good air movement b/l
   Abd soft, NT.  C-section incision has had staples removed, skin not
   closed over right side, packing in place.  No erythema.
   Ext with pneumoboots, warm, DP +2 b/l, no pitting edema.
   Labs / Radiology
   449 K/uL
   8.5 g/dL
   270 mg/dL
   3.5 mg/dL
   19 mEq/L
   4.5 mEq/L
   59 mg/dL
   114 mEq/L
   144 mEq/L
   24.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2115-4-1**]  02:38 PM
                             [**2115-4-1**]  05:09 PM
                             [**2115-4-2**]  04:25 AM
                             [**2115-4-2**]  04:51 PM
                             [**2115-4-2**]  05:07 PM
                             [**2115-4-2**]  08:14 PM
                             [**2115-4-2**]  10:22 PM
                             [**2115-4-3**]  04:07 AM
                             [**2115-4-3**]  12:07 PM
                             [**2115-4-4**]  04:30 AM
   WBC
   19.8
   21.0
   14.3
   12.3
   Hct
   24.0
   24.2
   24.0
   23.2
   24.2
   Plt
   [**Telephone/Fax (3) 1057**]49
   Cr
   3.1
   3.5
   3.7
   3.8
   3.5
   TCO2
   22
   23
   23
   21
   22
   Glucose
   124
   226
   203
   248
   270
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.5 %,
   Mono:2.7 %, Eos:0.2 %, D-dimer:2488 ng/mL, Fibrinogen:620 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:1.7 g/dL, Ca++:7.3 mg/dL, Mg++:2.6 mg/dL,
   PO4:6.0 mg/dL
   [**3-31**] Sputum:
GRAM STAIN (Final [**2115-3-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Final [**2115-4-2**]):
      RARE GROWTH OROPHARYNGEAL FLORA.
      YEAST.    SPARSE GROWTH.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final [**2115-4-1**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Pending):
   UCx [**3-31**] negative
   BCx [**3-31**] and [**4-2**] NGTD
   CXR [**4-3**]:
   Interstitial edema in the upper lobes is mild, not appreciably changed
   since
   [**4-2**].  Bibasilar consolidation is stable, whether this represent
   s a
   combination of dependent edema and atelectasis or pneumonia is
   radiographically indeterminate.  Heart size is top normal.  Pleural eff
   usion,
   if any, is minimal.  No pneumothorax.  ET tube tip is at the thoracic i
   nlet,
   left jugular line at the junction of the brachiocephalic veins and a
   nasogastric tube passes into the stomach and out of view.
   Assessment and Plan
   31yo woman admitted with preeclampsia and respiratory failure, now s/p
   C-section.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   In setting of underlying asthma, likely CAP, and fluid overload.
   Currently doing well despite fluid overload on CXR.
   -          change to PO steroids and start wean tomorrow
   -          nebulizers PRN
   -          continue ceftriaxone and azithromycin for 14 day course (day
   1 = [**3-27**])
   -          f/u sputum cultures
   -          allow patient to autodiurese; goal of -1L today
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Most likely due to preeclampsia with possible ATN.  Suspect she is
   currently in post-ATN diuresis and hence will not be able to
   concentrate her urine.
   -          continue to follow [**Hospital1 **] lytes
   -          expect patient
s urine output and creatinine will continue
   to improve
   -          hold on lasix as she is auto-diuresing
   -          appreciate renal input
Pregnancy/Preeclampsia:
   -          s/p delivery
   -          surgical incision will require dressing changes daily;
   monitor site
   -          appreciate OB input
 Hypertension:
   Has no history of HTN at baseline; could be a late manifestation of
   preeclampsia.
   Currently no indication to treat, but will monitor closely.
 DIABETES MELLITUS (DM), TYPE I
   -          will transition from insulin gtt to subQ insulin as she
   begins to eat
   -          appreciate [**Last Name (un) 276**] recommendations
 EDEMA:
   -          in setting of proteinuria, will have edema not related to
   fluid overload
   -          allow to autodiurese
   ICU Care
   Nutrition: advance diet
   Glycemic Control:  subQ insulin
   Lines:
   Multi Lumen - [**2115-3-31**] 04:44 PM
will get peripherals and DC
   Arterial Line - [**2115-4-2**] 09:36 PM
will DC
   Prophylaxis:
   DVT: pneumoboots, heparin SubQ
   Stress ulcer: PPI
   Bowel regimen
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2115-04-04 12:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-4-3**] 12:35 PM
   Extubated. Diuresing with minimal intervention.
   [**Last Name (un) 276**] consult.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2115-4-3**] 07:54 AM
   Ceftriaxone - [**2115-4-3**] 10:06 PM
   Infusions:
   Insulin - Regular - 7.5 units/hour
   Other ICU medications:
   Other medications:
   Please see [**Month (only) **] (reviewed on rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, thirst
   Flowsheet Data as of  [**2115-4-4**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.6
   HR: 68 (53 - 104) bpm
   BP: 137/111(124) {122/71(98) - 161/146(170)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90 kg (admission): 86 kg
   Height: 63 Inch
   CVP: 326 (326 - 337)mmHg
   Total In:
                                                                  1,578 mL
                                                                    716 mL
   PO:
                                                                    200 mL
   TF:
                                                                     40 mL
   IVF:
                                                                  1,448 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  3,290 mL
                                                                  1,325 mL
   Urine:
                                                                  3,290 mL
                                                                  1,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,712 mL
                                                                   -609 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 35%
   SpO2: 98%
   ABG: 7.36/38/134/19/-3
   PaO2 / FiO2: 335
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, some wound separation
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   449 K/uL
   270 mg/dL
   3.5 mg/dL
   19 mEq/L
   4.5 mEq/L
   59 mg/dL
   114 mEq/L
   144 mEq/L
   24.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2115-4-1**]  02:38 PM
                             [**2115-4-1**]  05:09 PM
                             [**2115-4-2**]  04:25 AM
                             [**2115-4-2**]  04:51 PM
                             [**2115-4-2**]  05:07 PM
                             [**2115-4-2**]  08:14 PM
                             [**2115-4-2**]  10:22 PM
                             [**2115-4-3**]  04:07 AM
                             [**2115-4-3**]  12:07 PM
                             [**2115-4-4**]  04:30 AM
   WBC
   19.8
   21.0
   14.3
   12.3
   Hct
   24.0
   24.2
   24.0
   23.2
   24.2
   Plt
   [**Telephone/Fax (3) 1057**]49
   Cr
   3.1
   3.5
   3.7
   3.8
   3.5
   TCO2
   22
   23
   23
   21
   22
   Glucose
   124
   226
   203
   248
   270
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.5 %,
   Mono:2.7 %, Eos:0.2 %, D-dimer:2488 ng/mL, Fibrinogen:620 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:1.7 g/dL, Ca++:7.3 mg/dL, Mg++:2.6 mg/dL,
   PO4:6.0 mg/dL
   Assessment and Plan
   31-year-old woman with resolved respiratory failure related to
   presumptive community-acquired pneumonia and pre-eclampsia, s/p
   extubation just yesterday, with ongoing issues of marked hyperglycemia
   related to type I diabetes.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          now s/p extubation
   -          CXR is worse, consitent with removal of PEEP and
   mobilization of third-spaced fluid.  However, she is improved.
   -          allow her to auto-diurese
   -          complete course of ABX for CAP
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          appreciate renal
s help
   -          appears to be improving
 ASTHMA
   -          convert to oral steroids
 DIABETES MELLITUS (DM), TYPE I
   -          begin transition to subcutaneous insulin (pump vs other, [**First Name8 (NamePattern2) **]
   [**Last Name (un) 276**])
   -          begin oral diet (diabetic)
   -          needs better control prior to leaving the ICU
 HYPERTENSION
   - could be related to late eclampsia vs. volume status
   - allow to auto-diurese
   - maintain vigilance for escalating hypertension
 WOUND SEPARATION
   - management per OB
   ICU Care
   Nutrition: begin oral diet
   Glycemic Control:  Insulin infusion, Comments: As above
   Lines:  Obtain peripherals, then d/c central line.  D/C arterial line.
   Consider d/c Foley.
   Multi Lumen - [**2115-3-31**] 04:44 PM
   Arterial Line - [**2115-4-2**] 09:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: D/C PPI once eating
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2115-04-05 07:17:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2115-4-4**] 03:00 PM
 MULTI LUMEN - STOP [**2115-4-4**] 05:00 PM
   Advanced diet
   Changed to subcutaneous insulin
   DC'd CVL and Art lines
   Diuresed on her own
   Episode of bradycardia to 30s after ? bowel movement
   Blood sugars into 300s overnight, now down to 100s.
   Feels more herself today.  Breathing feels fine.
   Allergies:
   Erythromycin Base
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2115-4-3**] 07:54 AM
   Ceftriaxone - [**2115-4-4**] 10:23 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2115-4-4**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-5**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96
   HR: 47 (47 - 71) bpm
   BP: 150/72(89) {132/51(78) - 156/94(111)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 90 kg (admission): 86 kg
   Height: 63 Inch
                  Total In:
                                                                  2,363 mL
                                                                    200 mL
   PO:
                                                                  1,690 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    648 mL
   Blood products:
   Total out:
                                                                  3,005 mL
                                                                    650 mL
   Urine:
                                                                  3,005 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -642 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Awake, pleasant, oriented x 3.
   S1, S2, bradycardic, no murmur
   Lungs clear b/l, no wheezes
   Abd soft, NT, ND.  C-section scar with small opening, no purulence or
   erythema.
   ++edema in feet b/l, DP +2 b/l
   Labs / Radiology
   487 K/uL
   8.3 g/dL
   121 mg/dL
   2.5 mg/dL
   21 mEq/L
   3.8 mEq/L
   50 mg/dL
   113 mEq/L
   145 mEq/L
   24.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2115-4-1**]  05:09 PM
                             [**2115-4-2**]  04:25 AM
                             [**2115-4-2**]  04:51 PM
                             [**2115-4-2**]  05:07 PM
                             [**2115-4-2**]  08:14 PM
                             [**2115-4-2**]  10:22 PM
                             [**2115-4-3**]  04:07 AM
                             [**2115-4-3**]  12:07 PM
                             [**2115-4-4**]  04:30 AM
                             [**2115-4-5**]  04:30 AM
   WBC
   19.8
   21.0
   14.3
   12.3
   11.7
   Hct
   24.0
   24.2
   24.0
   23.2
   24.2
   24.1
   Plt
   [**Telephone/Fax (3) 1057**]49
   487
   Cr
   3.1
   3.5
   3.7
   3.8
   3.5
   2.5
   TCO2
   23
   23
   21
   22
   Glucose
   124
   226
   203
   [**Telephone/Fax (3) 1085**]
   Other labs: PT / PTT / INR:14.4/23.6/1.3, ALT / AST:15/30, Alk Phos / T
   Bili:144/0.8, Differential-Neuts:91.4 %, Band:0.0 %, Lymph:5.5 %,
   Mono:2.7 %, Eos:0.2 %, D-dimer:2488 ng/mL, Fibrinogen:620 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:1.7 g/dL, Ca++:8.0 mg/dL, Mg++:2.5 mg/dL,
   PO4:4.4 mg/dL
   BCx [**3-31**], [**4-2**] pending
   Ucx negative
   IJ catheter tip Cx pending
Sputum Cx:  RARE GROWTH OROPHARYNGEAL FLORA.
                    YEAST.    SPARSE GROWTH.
   CXR [**4-4**]:
   In comparison to the previous radiograph, the nasogastric tube has
   been removed.  There is severe progression of bilateral diffuse opaciti
   es with
   sparse air bronchograms, suggestive of either massive pulmonary edema o
   r
   hyperacute infection.  Dr. [**Last Name (STitle) 842**] was informed at the time of reportin
   g.
   Assessment and Plan
   31yo woman admitted to the ICU in respiratory failure in the setting of
   preeclampsia and possible CAP.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Patient has underlying asthma, likely CAP, and fluid overload due to
   volume resuscitation and increased capillary permeability in setting of
   preeclampsia.
   -          currently 97% on RA, breathing comfortably
   -          would finish ceftriaxone and azithromycin for 14 day course
   (day 1 = [**3-27**])
   -          wean PO steroids for asthma
   -          follow respiratory status
   -          continues to have evidence of fluid overload on CXR
allow to
   autodiurese
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Due to preeclampsia and ATN.  Has good urine output and improving Cr.
   -          note that after ATN, she will have isosthenuria and be
   unable to concentrate her urine
   -          follow daily lytes
   -          allow to autodiurese
   -          appreciate renal recs
   # Preeclampsia
   -          stil has some elevated BPs, though this is in setting of
   volume overload and should improve with time
   -          will most likely not need anti-hypertensives at home, but
   would consider treating BPs in house if elevated > 150/100
 DIABETES MELLITUS (DM), TYPE I
   Currently on subcutaneous insulin; tolerating diet well
   -          appreciate [**Last Name (un) 276**] recommendations for glucose control
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  subcutaneous insulin [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recommendations
   Lines:
   20 Gauge - [**2115-4-4**] 04:30 PM
   Prophylaxis:
   DVT: pneumoboots, subQ heparin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to floor